US05574178
Lithium aluminum hydride (1.31 g) was suspended in tetrahydrofuran (150 ml) under a nitrogen atmosphere. A solution of 5-acetoxy-4,6-di-tert-butylbenzofuran (10 g) in tetrahydrofuran (100 ml) was added dropwise to the suspension under cooling with ice. After heating under reflux for 3 h, the mixture was cooled to room temperature and, after addition of water and 10% aqueous HCl (100 ml), the mixture was subjected to extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (10% ethyl acetate in n-hexane) to afford 4,6-di-tert-butyl-5-hydroxybenzofuran [8.3 g (yield, 98%)].

reactant | Lithium aluminum hydride | 1.31 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-acetoxy-4,6-di-tert-butylbenzofuran | 10 g | C(C)(=O)OC=1C(=CC2=C(C=CO2)C1C(C)(C)C)C(C)(C)C | C18H24O3
reactant | water | O | H2O
reactant | HCl | 100 ml | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4,6-di-tert-butyl-5-hydroxybenzofuran | 8.3 g, 98% | C(C)(C)(C)C1=C(C(=CC2=C1C=CO2)C(C)(C)C)O | C16H22O2
